US04452851
The solution of benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate (syn isomer, 2.3 g) in trifluoroacetic acid (10 ml) and anisole (2 ml) was stirred for 2 hours at ambient temperature. The resultant solution was poured into diisopropyl ether (300 ml) and the precipitates were collected by filtration. The precipitates were dissolved in an aqueous solution of sodium bicarbonate (pH 7.5). The aqueous solution was washed with ethyl acetate and was adjusted to pH 2.3 with 10% hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide under reduced pressure to give 7-[2-(6-aminopyridin-2-yl)-2-carboxymethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylic acid (syn isomer, 0.87 g), mp. 164° to 167° C. (dec.).

reactant | benzhydryl 7-[2-(6-aminopyridin-2-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylate | 2.3 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC(=O)OC(C)(C)C | C35H37N5O6S2
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(6-aminopyridin-2-yl)-2-carboxymethoxyiminoacetamido]-3-ethylthio-3-cephem-4-carboxylic acid | 0.87 g | NC1=CC=CC(=N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CC)C(=S)O)C1=O)=NOCC(=O)O | C18H19N5O6S2
